US05672723
To a solid consisting of 70% of 1-(5-methylchroman-6-carbonyl)-2-t-butyl hydrazine and 30% of 1-(5-methylchroman-6-carbonyl)-1-t-butyl hydrazine was added 10 ml of dehydrated ethanol containing 10% of hydrochloric acid and then the resultant was heated under reflux for 30 minutes. After cooling with ice and water, the precipitated crystals were filtered to obtain 0.88 g of 1-(5-methylchroman-6-carbonyl)-2-t-butyl hydrazine hydrochloride with a melting point of 217° to 220° C. in a yield of 68%. The filtrate was concentrated to obtain 0.25 g of ethyl methylchromanate with a melting point of 79° to 80° C. in a yield of 29%.

reactant | 1-(5-methylchroman-6-carbonyl)-2-t-butyl hydrazine | CC1=C2CCCOC2=CC=C1C(=O)NNC(C)(C)C | C15H22N2O2
reactant | 1-(5-methylchroman-6-carbonyl)-1-t-butyl hydrazine | CC1=C2CCCOC2=CC=C1C(=O)N(N)C(C)(C)C | C15H22N2O2
reactant | ethanol | 10 ml | C(C)O | C2H6O
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 1-(5-methylchroman-6-carbonyl)-2-t-butyl hydrazine hydrochloride | 0.88 g, yield of 68% | Cl.CC1=C2CCCOC2=CC=C1C(=O)NNC(C)(C)C | InChI=1S/C15H22N2O2.ClH/c1-10-11-6-5-9-19-13(11)8-7-12(10)14(18)16-17-15(2,3)4;/h7-8,17H,5-6,9H2,1-4H3,(H,16,18);1H
